US04652297
N-trifluoroacetyl-N-[bis(morpholino)phosphinothioylmethyl]glycine, methyl ester (5.35 g, 0.0123 mole) was dissolved in isopropanol and cooled to 0° C. on an ice bath. The solution was stirred and sodium tetrahydrido boron (467 mg, 0.0123 mole) was added portionwise over a ten minute period. The solution was allowed to warm to room temperature and stirred for an additional 45 minutes. The solvent was removed by evaporation under vacuum and the resulting residue was washed with water. The water washings were saturated with sodium chloride and the aqueous layer and insoluble residue were simultaneously extracted with ethyl acetate three times. The combined ethyl acetate extracts were dried over sodium sulfate, filtered and concentrated in vacuo. The resulting residue was then chromatographed on silica gel employing 25% ethanol in ethyl acetate (V:V) to obtain N-[bis(morpholino)phosphinothioylmethyl]glycine, isopropyl ester (300 mg), having a refractive index ND25 =1.5205 and the following analysis: Calculated: C, 44.33; H, 7.78; N, 11.08. Found: C, 44.83; H, 7.59; N, 10.76.

reactant | N-trifluoroacetyl-N-[bis(morpholino)phosphinothioylmethyl]glycine, methyl ester | 0.0123 mole, 5.35 g | FC(C(=O)N(CC(=O)OC)CP(=S)(N1CCOCC1)N1CCOCC1)(F)F | C14H23F3N3O5PS
reactant | isopropanol | C(C)(C)O | C3H8O
product | N-[bis(morpholino)phosphinothioylmethyl]glycine, isopropyl ester | 300 mg | O1CCN(CC1)P(=S)(N1CCOCC1)CNCC(=O)OC(C)C | C14H28N3O4PS
